US05378728
3.1 grams (14 mmoles) of 4-(2,2-dimethyl-1-oxopropyl) benzoyl chloride is dissolved in 15 milliliters of diethylether, and the resulting solution is added dropwise to concentrated ammonium hydroxide with vigorous stirring at 0°-10° C. The white crystalline precipitate which forms is filtered off and washed with water and with ether. The product is dried in vacuo to yield 4-(2,2-dimethyl-1-oxopropyl)-benzamide (m.p. 138°-140° C.) .

reactant | 4-(2,2-dimethyl-1-oxopropyl) benzoyl chloride | 14 mmoles, 3.1 grams | CC(C(=O)C1=CC=C(C(=O)Cl)C=C1)(C)C | C12H13ClO2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | diethylether | 15 milliliters | C(C)OCC | C4H10O
product | 4-(2,2-dimethyl-1-oxopropyl)-benzamide | CC(C(=O)C1=CC=C(C(=O)N)C=C1)(C)C | C12H15NO2
